### PR TITLE
Added proof that KFinite types with decidable equality are Bishop finite

### PR DESCRIPTION
**Pull request by klinashka**
This PR adds a proof that K-Finite types with decidable equality are Bishop finite. I have currently left the proof in the file `Combinatorics.DecidableEqualityKFiniteTypes`, since I am not sure yet where to place all of the proofs and the helper lemmas. Let me know if I should add an issue to correspond to this PR. I will also leave below a short sketch of the proof so that it is easier for you to follow the code. I omitted some implementation details in the proof for the sake of clarity. 

For the proof below I will denote `stn n` to be the `n`th standard finite set.  Additionally, I will abuse notation and say that the terms of `stn (S n)` are 0 ... n. 

Claim: K-Finite types (`kfinstruct`) with decidable equality are Bishop finite `finstruct`. 
Proof
Let `X` be a K-Finite type. Then there exists `n : nat` with a surjection from the `stn n` to `X`. 

The proof goes by induction on `n`, with the type `X` being generalized. 
In the base case, we have a surjection from an uninhabited type to `X`. Thus, `X` must also have no elements and therefore, `X` is equivalent with `stn 0`. 

In the inductive step, we assume that for any type `X` for which there exists a surjection from `stn n` to `X` and has decidable equality is Bishop finite. We have to show that if there exists a surjection `f` from `stn (S n)` to `X` and `X` has decidable equality, then `X` is Bishop finite. 
Let `g : stn n -> X` such that `g (x) := f x`.  If `X` has decidable equality, then it is decidable whether `f (n)` is included in the image of `g` (intuitively, since there is a finite number of terms in `stn n`, we just go through all of them and decide whether `f n` is included). 

We will thus proceed by case analysis on whether `f n` is included in the image of `g`. 
If `f n` is included in the image of `g`, then `g` must be a surjection as well. By the inductive hypothesis `X` is Bishop finite.
If `f n` is not included in the image of `g`, we will denote `y := f n`. We now consider the type `X / y` (pair X (\x -> x != y)) which is inhabited by terms different than `y`. First, we note that `X / y` has decidable equality. Secondly, we note that `X / y + unit` is equivalent to `X`. Lastly, we note that by restricting the codomain of `g` to `X / y`, we obtain a surjection `g1 : stn n -> X / y`. 
By the inductive hypothesis, the type `X / y` is Bishop finite, and thus equivalent to `stn m` for some `m : nat`. To conclude, we have the following chain of equivalences `X <-> X / y + 1 <-> stn m + 1 <-> stn (S m)`. Thus, `X` is Bishop finite.

### CODE REVIEW

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 1]
```diff
@@ -0,0 +1,183 @@
...
+           { unfold g, snton, make_stn. 
+             assert (lth = natlthtolths m n a) by apply proofirrelevance, propproperty. induction X0. apply idpath. }
+           induction X0. assumption.
+        -- apply b0. unfold lastelement. induction b1.
+           assert (lth = natgthsnn m).
+           { apply proofirrelevance, propproperty. }
+           induction X0. assumption.
+Qed.
+
+Lemma kfinstruct_dec_finstruct {X : UU} : kfinstruct X → isdeceq X → finstruct X.
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: Would it be sensible to split this into lemmas?

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 2]
```diff
@@ -0,0 +1,183 @@
...
+Proof.
+    intros [n [f surj]] deceqX.
+    generalize dependent X.
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: Would the following have worked as well?
```
intros [n [f surj]].
revert X.
```
In my eyes this seems a bit simpler (although the different is negligible.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 3]
```diff
@@ -0,0 +1,183 @@
...
+    induction n; intros.
+    - exists 0.
+      assert (H : X → ∅).
+      { intros x.  
+        assert (hyp : ∥ hfiber f x ∥) by (exact (surj x)). 
+        eapply squash_to_prop.
+        + apply hyp.
+        + apply isapropempty. 
+        + intros [n eq].
+            apply negstn0; assumption.
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: indenting

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 4]
```diff
@@ -0,0 +1,183 @@
...
+        }
+        apply weqiff; [ | apply isapropifnegtrue, negstn0 | apply isapropifnegtrue, H ].
+      + split; [apply f | intros x; apply fromempty; apply H, x ].
+    - set (g := snton f).
+      set (y := f lastelement).
+      induction (isdeceq_isdecsurj g y deceqX).
+      + assert (H : issurjective g).
+        * intros y'.
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: It might be good to use `{ }` rather than `*`. This would make the proof a bit flatter and more readable.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 5]
```diff
@@ -0,0 +1,183 @@
...
+             apply b, pathsinv0, bla.
+Qed.
+
+Definition snton {X : UU} {n : nat} (f : stn (S n) → X) : stn n → X.
+Proof.
+    intros [m lem].
+    apply f. apply (make_stn _  m). apply natlthtolths, lem.
+Defined.
+
+Definition helper_fun {X : UU} {n : nat} (f : stn (S n) → X) : ¬ hfiber (snton f) (f lastelement) → stn n → (∑ (x : X), ¬ (x = (f lastelement))).
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: It might be good to split this statement over multiple lines, so that this line becomes a bit shorter.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 6]
```diff
@@ -0,0 +1,183 @@
...
+Proof.
+    intros.
+    exists (snton f X1).
+    intros contra.
+    apply X0.
+    eexists. apply contra.
+Defined.
+
+Lemma issurjective_helper_fun {X : UU} {n : nat} (f : stn (S n) → X) (nfib : ¬ hfiber (snton f) (f lastelement)) : issurjective f → issurjective (helper_fun f nfib).
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: It might be good to split this statement over multiple lines so that this line becomes shorter

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 2 above)
Comment (klinashka) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: The code you have given does not fully work, because `revert X` seems to attempt to revert only `X`, and not all the terms in the context that depend on `X`. What does work is

```
intros [n [f surj]].
revert f surj X.
```
This is indeed shorter. I used `generalize dependent` just because I felt it reflected better that I wanted to have `X` generalized in the proof.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 7]
```diff
@@ -0,0 +1,183 @@
+Require Import UniMath.Foundations.All.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: Since this file is less than 200 lines, I think you can safely add it (the non-generalizable parts, that is) to KFiniteTypes.

Comment (arnoudvanderleer) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: You wrote a very nice outline of the proof in the PR. I think it would be valuable to have a summary of that as documentation in the file. Although since I advised to make this a section of `KFiniteTypes`, I am not sure whether it would be wise to put the summary at the top of that file, or just above the relevant section.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 1 above)
Comment (klinashka) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: I think there are some lemmas that can be extracted. 
For example, a lemma of type ` (f : stn 0 -> X) -> issurjective f -> X equiv stn 0`, which is what I essentially prove in the base case could seems generally helpful. 
Other than that, I am pretty sure the proof can be reduced at least a fair bit (e.g. I have many places where I show manually that two terms of type `stn n` are equal when they have the first projection equal, and I think there already is a lemma for that in UniMath.).

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 7 above)
Comment (klinashka) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: I think we can decide on that once I reorganize all the code.

Comment (nmvdw) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: If the proof is added to the documentation, then it might be better to keep it in a separate file. Else the file `KFiniteTypes` might become a bit too big.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 1 above)
Comment (klinashka) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: I've tried to split it as much as I could. I don't think I can do more than this.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 7 above)
Comment (klinashka) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: I've refactored the code a little and added more lemmas. Now I think some of them would logically belong in other places. (e.g. `isdeceq_total2'`, `surjfromstn0toneg`, `isdeceq_isdecsurj`)

Comment (arnoudvanderleer) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: > If the proof is added to the documentation, then it might be better to keep it in a separate file. Else the file `KFiniteTypes` might become a bit too big.

If so, what would you call the file?

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 8]
```diff
@@ -0,0 +1,161 @@
...
+      induction (natlehchoice _ _ (natlthsntoleh _ _ lth)).
+      + apply (tpair _ (m ,, a)).
+        unfold helper_fun, snton, make_stn.
+        apply subtypePath; try (apply isPredicateremoveterm); simpl.
+        induction q. apply maponpaths, stn_eq, idpath. 
+      + assert (m ,, lth = lastelement) by apply stn_eq, b.
+        apply fromempty, neq. induction X0. apply pathsinv0, q.
+Qed.
+
+Lemma isdeceq_total2' {X : UU} (P : X → UU) :
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: This lemma can be moved here:
https://github.com/UniMath/UniMath/blob/master/UniMath/MoreFoundations/DecidablePropositions.v

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 9]
```diff
@@ -0,0 +1,161 @@
...
+        [apply isPredicateremoveterm | apply idpath].
+    + induction (deceqx y y).
+      * induction tt. apply idpath.
+      * apply fromempty, b, idpath.
+  - intros x; cbn beta.
+    induction (deceqx x y); simpl;
+    try induction a; apply idpath.
+Qed.
+
+Definition snton {X : UU} {n : nat} (f : stn (S n) → X) : stn n → X.
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: What does `snton` stand for? Would this definition fit in https://github.com/UniMath/UniMath/blob/master/UniMath/Combinatorics/StandardFiniteSets.v?

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 10]
```diff
@@ -0,0 +1,161 @@
...
+
+Lemma isdeceq_total2' {X : UU} (P : X → UU) : 
+  isdeceq X → isPredicate P → isdeceq (∑ x : X, P x).
+Proof.
+  intros deceqX predP. apply isdeceq_total2.
+  + apply deceqX.
+  + intros x. apply isdeceqifisaprop, predP.
+Qed. 
+
+Lemma surjfromstn0toneg {X : UU} (f : ⟦ 0 ⟧ → X ) : (issurjective f) → ⟦ 0 ⟧ ≃ X.
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: Would this lemma fit in https://github.com/UniMath/UniMath/blob/master/UniMath/Combinatorics/StandardFiniteSets.v?

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v [hunk 11]
```diff
@@ -0,0 +1,161 @@
...
+      * intros [[m lth] eq].
+        induction (natlehchoice _ _ (natlthsntoleh _ _ lth)).
+        -- apply b. apply tpair with (pr1 := (m ,, a)).
+           induction eq. unfold g, snton, make_stn.
+           apply maponpaths, stn_eq, idpath.
+        -- apply b0. unfold lastelement. induction b1, eq.
+           apply maponpaths, stn_eq, idpath.
+Qed.
+
+Lemma surjstnon {X : UU} {n : nat} (f : ⟦ S n ⟧ → X) : isdeceq X → issurjective f →
```
Comment (nmvdw) [inline UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: If I see correctly, this one only depends on `snton` (of the identifiers defined in this file). So, it might fit in https://github.com/UniMath/UniMath/blob/master/UniMath/Combinatorics/StandardFiniteSets.v

**Review by nmvdw — COMMENTED** [review]
I added some suggestions on where some lemmas could be moved

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 7 above)
Comment (nmvdw) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: There could be a file focussed on decidable equality and finiteness called `DecidableEqualityAndFinite`. This is because there are many notions of finiteness, and generally they simplify if one assumes decidable equallity.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 9 above)
Comment (klinashka) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: The name `snton` is bad. This function basically restricts the domain of the function. Similarly, the other helper function restricts the codomain. I still have to think of an appropriate name for them.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 10 above)
Comment (klinashka) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: I was thinking either in the file you mentioned, or in [https://github.com/UniMath/UniMath/blob/master/UniMath/Combinatorics/FiniteSets.v](), as the equivalence can be rewritten as `nelstruct 0 X`, which would belong to the `FiniteSets` directory.

**Comment by klinashka** [comment]
I have moved all of the proofs from the separate file throughout the library. I also added the informal proof of the theorem as a comment. If any of the results feel out of place, I can revert this commit and move them back as they were.

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 9 above)
Comment (arnoudvanderleer) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: Then `snton f` is just `f \circ dni lastelement` (or `dni_lastelement`), right?

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 12]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
     := hinhfun kfinstruct_finstruct.
 
 End kfinite_definition.
+
+Section iskfinite_isdeceq_isfinite.
```
Comment (nmvdw) [inline UniMath/Combinatorics/KFiniteTypes.v:246]: I would indent in the section to indicate that you are in the section

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 13]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
...
+(*
```
Comment (nmvdw) [inline UniMath/Combinatorics/KFiniteTypes.v]:
```suggestion
(**
```
By using two `*`, it becomes `RocqDoc` rather than a comment

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 14]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
...
+  - intros x; cbn beta.
+    induction (deceqx x y); simpl;
+    try induction a; apply idpath.
+Qed.
+
+Lemma issurjective_stnfun_excludefixed {X : UU} {n : nat} (f : stn (S n) → X) 
+      (nfib : ¬ hfiber (fun_stnsn_to_stnn f) (f lastelement)) : issurjective f → 
+      issurjective (stnfun_excludefixed f nfib).
+Proof.
+    intros surjf y.
```
Comment (nmvdw) [inline UniMath/Combinatorics/KFiniteTypes.v:285]: The indenting is different in this function (previous function uses 2 spaces and this one uses 4)

File: UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v (hunk 9 above)
Comment (klinashka) [reply UniMath/Combinatorics/DecidableEqualityKFiniteTypes.v]: Yea, that is correct. Should I then remove the definition? Or define the function in terms of `dni_lastelement`?

**Comment by nmvdw** [comment]
This can be merged, right?

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 15]
```diff
@@ -347,10 +347,10 @@ Proof.
...
 
-Lemma iskfinitedectoisfinite {X : UU} : isdeceq X → iskfinite X → isfinite X.
-Proof.
-  intros deceqX. apply hinhfun, kfinstruct_dec_finstruct, deceqX.
-Qed.
+  Lemma iskfinitedectoisfinite {X : UU} : isdeceq X → iskfinite X → isfinite X.
+  Proof.
+    intros deceqX. apply hinhfun, kfinstruct_dec_finstruct, deceqX.
+  Qed.
 End iskfinite_isdeceq_isfinite.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/KFiniteTypes.v]: GitHub warns that a couple of these files don't end in a newline.
Making sure that every file ends in a newline would be a good (albeit minor) good habit. If you don't do it, and someone wants to add something new to the file, they add a newline character at the end of your last line, and git will notice that that line has changed (even though there was no substantial change to that line, but only to the lines below).
Usually, you can configure an IDE (like vscode) to automatically make sure that every file ends in a newline.

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 16]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
...
+  y := f n. We now consider the type X / y (pair X (\x -> x != y)) which is inhabited by 
+  terms different than y. First, we note that X / y has decidable equality. Secondly, we note 
+  that X / y + unit is equivalent to X. Lastly, we note that by restricting the codomain of g 
+  to X / y, we obtain a surjection g1 : stn n -> X / y. By the inductive hypothesis, the type 
+  X / y is Bishop finite, and thus equivalent to stn m for some m : nat. 
+  To conclude, we have the following chain of equivalences 
+  X <-> X / y + 1 <-> stn m + 1 <-> stn (S m). Thus, X is Bishop finite.
+
+  *)
+  Definition removeterm {X : UU} (y : X) : X → UU := λ x, x != y.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/KFiniteTypes.v]: Two comments about this one:
 - I believe `removeterm` should have type `hsubtype X`, and should be located in `MoreFoundations/Subtypes`
 - Can you make sure that the names of your definitions and lemmas consist of words, separated by underscores? So `removeterm` would be `remove_term`. Although maybe something like `singleton_complement` would be more appropriate?

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 17]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
...
+
+  Lemma isPredicateremoveterm {X : UU} (y : X) : isPredicate (removeterm y).
+  Proof.
+    intros x. apply isapropneg.
+  Qed.
+
+  Lemma removetermequiv {X : UU} (y : X) : isdeceq X → (∑ (x : X), ¬ (x = y)) ⨿ unit ≃ X.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/KFiniteTypes.v]: Here again two comments:
 - Can you add underscores to the name here?
 - If `remove_term` or whatever it will be called is a `hsubtype`, then `(∑ (x : X), ¬ (x = y))` can also just be written as `remove_term y` (which uses the coercion `carrier : hsubtype -> UU`)

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 18]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
...
+  Proof.
+    intros deceqx.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/KFiniteTypes.v]: Are you aware that the `intro` tactic also exists? (But `intros` is also fine, of course)

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 19]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
...
+    - exact (hfiber f x).
+    - exact (surjf x).
+    - apply propproperty.
+    - intros [[m lth] q]; clear surjf. apply hinhpr.
+      induction (natlehchoice _ _ (natlthsntoleh _ _ lth)).
+      + apply (tpair _ (m ,, a)).
+        unfold stnfun_excludefixed, fun_stnsn_to_stnn, make_stn.
+        apply subtypePath; try (apply isPredicateremoveterm); simpl.
+        induction q. apply maponpaths, stn_eq, idpath. 
+      + assert (m ,, lth = lastelement) by apply stn_eq, b.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/KFiniteTypes.v]: `assert` introduces a variable `X0` that you use later on. Can you give it a name explicitly? Like `assert (X0 := m ,, lth = lastelement)`. That will be more future-proof.

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 20]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
...
+      apply surjfromstn0toneg with (f := f). assumption. 
+    - set (g := fun_stnsn_to_stnn f).
+      set (y := f lastelement).
+      induction (isdeceq_isdecsurj g y deceqX).
+      + apply IHn with (f := g); try apply surj_fun_stnsn_to_stnn; assumption.
+      + set (g' := stnfun_excludefixed f b).
+        set (surjg' := (issurjective_stnfun_excludefixed f b surj)).
+        specialize IHn with (f := g').
+        apply IHn in surjg'; 
+        [ | apply isdeceq_subtype; try assumption; intros x; apply isapropneg ].
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/KFiniteTypes.v]: @nmvdw What do you think about this way of flattening the proofs?

File: UniMath/MoreFoundations/DecidablePropositions.v [hunk 21]
```diff
@@ -456,6 +456,18 @@ Definition natneq_DecidableProposition : DecidableRelation nat :=
 
 End DecidablePropositions.
 
+Section DecidableEquality.
+
+Lemma isdeceq_subtype {X : UU} (P : X → UU) : 
+  isdeceq X → isPredicate P → isdeceq (∑ x : X, P x).
```
Comment (arnoudvanderleer) [inline UniMath/MoreFoundations/DecidablePropositions.v]: You could maybe reformulate this with `P : hsubtype X` and `isdeceq P`.

File: .gitignore [hunk 22]
```diff
@@ -29,3 +29,4 @@ _CoqProject
 /..coq_makefile_output.d
 /UniMath/.dir-locals.el
 /_build/
+*/CONTENTS.md
```
Comment (arnoudvanderleer) [inline .gitignore]: Why did you add `CONTENTS.md` to the gitignore?

File: UniMath/Combinatorics/.package/files [hunk 23]
```diff
@@ -18,4 +18,4 @@ Tests.v
 DecSet.v
 Maybe.v
 MoreLists.v
-Tuples.v
+Tuples.v
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/.package/files]: This file also needs a newline at the end.

File: UniMath/Combinatorics/FiniteSets.v [hunk 24]
```diff
@@ -618,3 +618,12 @@ Delimit Scope finset with finset.
 Notation "'∑' x .. y , P" := (FiniteSetSum (λ x,.. (FiniteSetSum (λ y, P))..))
                                (at level 200, x binder, y binder, right associativity) : finset.
 (* type this in emacs in agda-input method with \sum *)
+
+(* A surjection from stn 0 is an equivalence *)
+Lemma surjfromstn0toneg {X : UU} (f : ⟦ 0 ⟧ → X ) : (issurjective f) → ⟦ 0 ⟧ ≃ X.
+Proof.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/FiniteSets.v]: Why did you put this in `FiniteSets` and not `StandardFiniteSets`?

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 25]
```diff
@@ -241,3 +242,115 @@ Section kfinite_definition.
...
+  We will thus proceed by case analysis on whether f n is included in the image of g.
+  If f n is included in the image of g, then g must be a surjection as well. By the inductive 
+  hypothesis X is Bishop finite. If f n is not included in the image of g, we will denote 
+  y := f n. We now consider the type X / y (pair X (\x -> x != y)) which is inhabited by 
+  terms different than y. First, we note that X / y has decidable equality. Secondly, we note 
+  that X / y + unit is equivalent to X. Lastly, we note that by restricting the codomain of g 
+  to X / y, we obtain a surjection g1 : stn n -> X / y. By the inductive hypothesis, the type 
+  X / y is Bishop finite, and thus equivalent to stn m for some m : nat. 
+  To conclude, we have the following chain of equivalences 
+  X <-> X / y + 1 <-> stn m + 1 <-> stn (S m). Thus, X is Bishop finite.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/KFiniteTypes.v]: You can use the unicode notation `≃` in this line :-)

**Review by arnoudvanderleer — CHANGES_REQUESTED** [review]
Looks good in general, but I have some questions and suggestions about your style :-)
(I'm sorry about the late review)

File: UniMath/Combinatorics/KFiniteTypes.v (hunk 18 above)
Comment (klinashka) [reply UniMath/Combinatorics/KFiniteTypes.v]: Yes, I am aware that `intro` tactic exists. I have just made it a habit to always use `intros`. I can change it if you think it is more appropriate to have `intro`.

Comment (arnoudvanderleer) [reply UniMath/Combinatorics/KFiniteTypes.v]: Okay, it is a choice. Then it's fine :-)

File: UniMath/Combinatorics/FiniteSets.v (hunk 24 above)
Comment (klinashka) [reply UniMath/Combinatorics/FiniteSets.v]: This function constructs an equivalence from `stn 0` to `X`. This is actually the same as `nelstruct X 0` and thus this is a function that basically shows that `X` is a finite set (one aditional lemma for `finstruct X` and one for `isfinite X`. That is why I believed it is more appropriate to have it here instead of `StandardFiniteSets`.

File: .gitignore (hunk 22 above)
Comment (klinashka) [reply .gitignore]: when I ran `make` locally it automatically added the `CONTENTS.md` to my file, which was registered as an addition in my commit. I then assumed that it is not necessarily intended to have the `CONTENTS.md` in the repository. That is why I added it to `.gitignore`. I'll revert this change if you actually want the `CONTENTS.md` file in the repo.

File: UniMath/Combinatorics/FiniteSets.v (hunk 24 above)
Comment (arnoudvanderleer) [reply UniMath/Combinatorics/FiniteSets.v]: Fair enough. Would it be an idea to then formulate this as
```suggestion
(* A surjection from stn 0 is an equivalence *)
Lemma surjfromstn0toneg {X : UU} (f : ⟦ 0 ⟧ → X ) : (issurjective f) → nelstruct 0 X.
Proof.
```

Comment (klinashka) [reply UniMath/Combinatorics/FiniteSets.v]: Yes, I think that is a good idea. Can you change in the suggestion `nelstruct X 0` with `nelstruct 0 X`, so that I can commit the suggestion directly?

File: .gitignore (hunk 22 above)
Comment (arnoudvanderleer) [reply .gitignore]: Ah righ. This is a remnant of a recent change. We should probably remove `CONTENTS.md` from the makefile.
Can you revert your change to the gitignore for now?

File: UniMath/Combinatorics/KFiniteTypes.v (hunk 20 above)
Comment (klinashka) [reply UniMath/Combinatorics/KFiniteTypes.v]: I've checked the proof term for this lemma. It does not contain any pattern matching. (the brackets just fill the goals that were done by the previous goal for this.) There are some `let` expressions coming from my use of `set` and `assert` probably. Additionally, (if I read correctly) in the old style guide it mentions to avoid brackets for `intros` tactics and nested brackets for `induction`. I'll look further into the other definitions to ensure I avoid introducing pattern matching in proof terms as much as possible.

Comment (arnoudvanderleer) [reply UniMath/Combinatorics/KFiniteTypes.v]: Oh, sorry, that is not what I meant. There are two kinds of square brackets:
 - Destructuring brackets, which use `match` when you nest them, I believe. Nesting these is discouraged.
 - Branching brackets, which you use here. They make a proof flatter and denser, but this can reduce readability. I have to confess that I also sometimes write quite dense and unreadable proofs, but now you did this, I was wondering what Niels thought about it :-)

**Comment by nmvdw** [comment]
What still need to be done before this can be merged?

File: UniMath/Combinatorics/KFiniteTypes.v (hunk 16 above)
Comment (klinashka) [reply UniMath/Combinatorics/KFiniteTypes.v]: I tried to have `removeterm` as an `hsubtype`, but I found that it added a lot of complexity, due to having to deal with an `hProp`, instead of the standard structure. However, if you try to standardize things and want to have it as an `hsubtype`, I will definitely try to do that.

Comment (arnoudvanderleer) [reply UniMath/Combinatorics/KFiniteTypes.v]: Can you give one or two examples of this added complexity?

Comment (klinashka) [reply UniMath/Combinatorics/KFiniteTypes.v]: These issues might also come from my inability to deal with coercions neatly and not being fully aware of all the lemmas of `hProp`, but here are some issues I encountered. 
- I could not find any lemma specifying that if the first projections of terms of type `hsubtype` are equal, then the terms should be equal. For the approach I have used, there is the lemma `subtypePath`, which does that. 
- I have found myself having to do induction on a term of type `isdeceq X x y`. It then it was easier to handle the contradictory cases with dealing with the type `x = y -> empty`, rather than having it wrapped around an `hProp`.
- I personally struggled with the `carrier` structure and using it in the same way I used the dependent pair.

Comment (arnoudvanderleer) [reply UniMath/Combinatorics/KFiniteTypes.v]: - "terms of type `hsubtype` are equal". Do you mean that you want to show equality of `f, g: hsubtype X` (so `f, g : X -> hProp`?) Or do you mean equality of `s, t: carrier S` for `S : hsubtype X`? The latter has multiple proofs, for example `carrier_eq` or `subtypePath_prop`.
- If you have `x : carrier (singleton_complement y`, then `pr2 x : pr1carrier _ x != y`. I agree that this is one additional step, but not a large one (and bundling information is often useful for passing complicated data around).
- Hm. It is still a dependent pair, with some additional features (like `carrier_eq`, for example).

Does this help in any way?

Comment (klinashka) [reply UniMath/Combinatorics/KFiniteTypes.v]: I have made the modifications to `hsubtype X`.

File: UniMath/MoreFoundations/DecidablePropositions.v [hunk 26]
```diff
@@ -458,13 +458,40 @@ End DecidablePropositions.
...
+    intros deceqx.
+    use weq_iso.
+    - intros [[x neq] | tt]; [apply x | apply y].
+    - intros x. induction (deceqx x y); [right; apply tt | left].
+      apply tpair with (pr1 := x), b. 
+    - intros [[x neq] | tt].
+      + induction (deceqx x y).
+        * apply fromempty. induction neq. assumption.
+        * cbn. apply maponpaths, subtypePath; 
+          [apply isPredicate_singleton_complement | apply idpath].
```
Comment (arnoudvanderleer) [inline UniMath/MoreFoundations/DecidablePropositions.v:487]:
```suggestion
          [apply propproperty | apply idpath].
```
(and the same for the other occurrences of `isPredicate_singleton_complement` ;-))

Comment (arnoudvanderleer) [inline UniMath/MoreFoundations/DecidablePropositions.v]:
```suggestion
        * cbn. apply maponpaths, subtypePath_prop.
```
This should work, right?

File: UniMath/Combinatorics/KFiniteTypes.v [hunk 27]
```diff
@@ -317,11 +291,11 @@ Section iskfinite_isdeceq_isfinite.
     - intros [[m lth] q]; clear surjf. apply hinhpr.
       induction (natlehchoice _ _ (natlthsntoleh _ _ lth)).
       + apply (tpair _ (m ,, a)).
-        unfold stnfun_excludefixed, fun_stnsn_to_stnn, make_stn.
-        apply subtypePath; try (apply isPredicate_singleton_complement); simpl.
+        unfold stnfun_singleton_complement, fun_stnsn_to_stnn, make_stn.
+        apply subtypePath; try (apply isPredicate_singleton_complement); cbn.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/KFiniteTypes.v]:
```suggestion
        apply subtypePath_prop; cbn.
```

File: UniMath/Combinatorics/StandardFiniteSets.v [hunk 28]
```diff
@@ -2029,9 +2029,9 @@ Defined.
 (* Functions with domain in Standard finite sets. *)
 Definition fun_stnsn_to_stnn {X : UU} {n : nat} (f : stn (S n) → X) : stn n → X := f ∘ dni_lastelement.
 
-Definition stnfun_excludefixed {X : UU} {n : nat} (f : stn (S n) → X) : 
+Definition stnfun_singleton_complement {X : UU} {n : nat} (f : stn (S n) → X) : 
       ¬ hfiber (fun_stnsn_to_stnn f) (f lastelement) → stn n → 
-      (∑ (x : X), ¬ (x = (f lastelement))).
+      (singleton_complement (f lastelement)).
 Proof.
   intros.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/StandardFiniteSets.v]: Sorry, I did not see this one before. Please explicitly name any variable you introduce (and use):
```suggestion
  intros X0 X1.
```

File: UniMath/Combinatorics/StandardFiniteSets.v [hunk 29]
```diff
@@ -2025,3 +2025,55 @@ Lemma stn_ord_bij {n : nat} (f : ⟦ n ⟧ ≃ ⟦ n ⟧) :
...
+  - induction a. apply hinhpr, tpair with (pr1 := x), eq.
+  - apply (squash_to_prop (surj y')); try apply propproperty.
+    intros m. induction m as [m eq']; induction m as [m lth]. apply hinhpr.
+    induction (natlehchoice _ _ (natlthsntoleh _ _ lth)).
+    + apply tpair with (pr1 := m ,, a).
+      unfold fun_stnsn_to_stnn, make_stn, funcomp.
+      induction eq'. apply maponpaths, stn_eq, idpath.
+    + induction eq', b0. apply fromempty, b. 
+      apply maponpaths, stn_eq, idpath.
+Qed.
```
Comment (arnoudvanderleer) [inline UniMath/Combinatorics/StandardFiniteSets.v]: Although... Can you maybe also add a newline here?
